US05204350
N-CBZ-L-tyrosine.
H2O (1.5 g, 4.29 mmole) was dissolved in EtOAc/CH2Cl2, dried over MgSO4, filtered and evaporated. The residue was dissolved in DMF and treated with NaH (50% dispersion in oil, 0.43 g, 8.96 mmole) for 1 hour. N-BOC-8-amino-1-bromooctane (1.33 g, 4.34 mmole) was added and the reaction was stirred for 16 hours. The DMF was removed in vacuo, the residue dissolved in water, acidified to pH 3 and extracted with EtOAc. The EtOAc layers were combined, dried and concentrated. Column chromatography (SiO2, 97:3:1 CHCl3 /MeOH/HOAc) gave 2-5.

reactant | H2O | 4.29 mmole, 1.5 g | O | H2O
reactant | NaH | 8.96 mmole, 0.43 g | [H-].[Na+]
reactant | N-BOC-8-amino-1-bromooctane | 4.34 mmole, 1.33 g | C(=O)(OC(C)(C)C)NCCCCCCCCBr | C13H26BrNO2
solvent | EtOAc CH2Cl2 | CCOC(=O)C.C(Cl)Cl
product | N-CBZ-L-tyrosine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C17H17NO5
